US06620842B2
1-[3-(3-Methylbut-2-Enyloxy)Xanthen-9-one-4-yl]-3-Phenyl-Propen-1-one (See Accompanying Formula Drawing VIB 176).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 3-(3-methylbut -2-enyloxy)-4-acetylxanthen-9-one (2.4 g, 0.0075 mol) and benzaldehyde (0.8 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.1 g of product m.p. 116-118° C., 1H-NMR (CDCl3)δ:1.69 (s, 3H); 1.72 (s, 3H); 4.71 (d, 2H, J=6.5); 5.38-5.40 (m, 1H); 7.05-7.10 (m, 2H); 7.08 (d, 1H, J=8.8 Hz); 7.10 (d, 1H, J=16 Hz); 7.30-7.48 (m, 6H); 7.50-7.58 (m, 2H); 7.65-7.60 (m, 1 H) 8.30-8.33(m, 1H); 8.42 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 3-(3-methylbut -2-enyloxy)-4-acetylxanthen-9-one | 0.0075 mol, 2.4 g | CC(=CCOC=1C=CC=2C(C3=CC=CC=C3OC2C1C(C)=O)=O)C | C20H18O4
reactant | benzaldehyde | 0.0075 mol, 0.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-(3-Methylbut-2-Enyloxy)Xanthen-9-one-4-yl]-3-Phenyl-Propen-1-one | 2.1 g | CC(=CCOC=1C=CC=2C(C3=CC=CC=C3OC2C1C(C=CC1=CC=CC=C1)=O)=O)C | C27H22O4
